Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
tetracycline / codeine / BuSpar
 
Attending: ___.
 
Chief Complaint:
Back pain and fecal incontinence. 
 
Major Surgical or Invasive Procedure:
None. You were offered surgery but declined and requested to 
wait until after the holiday. 

 
History of Present Illness:
___ y/o female with  history of back surgery x2, posterior
instrumented fusion of L3-5, now with back pain for the last few
weeks. Presented to ___, an MRI was obtained and
showed multifactorial lumbar stenosis with complete effacement 
of
CSF at L1-2, and retrolisthesis of L1 on L2. The patient 
endorses
intermittent fecal incontinence the last few days with worsening
back pain. She endorses back pain that radiates to bilater
groins, and numbness to bilateral knees that extends down to
bilateral inner calves. 
 
Past Medical History:
HTN, DM, HLD, MI s/p cardiac stent on Plavix, Depression,
gastric ulcer, Bilateral knee replacements about ___ yrs ago and
back surgeries x2 with posterior fusion 5 and ___ years ago. 

 
Social History:
___
Family History:
NC
 
Physical Exam:
On the day of discharge:
Patient is awake and alert. TLSO at bedside. 
Bilateral IP 4+/5
Left ___ ___
Left gastro ___
Paresthesia to R knee (baseline s/p B/L knee replacement)
Paresthesia from the lateral aspect of her L knee to L distal 
great toe. 
Poor effort with exam. 

 
Pertinent Results:
CT L-SPINE W/O CONTRAST Study Date of ___ 10:10 ___ 
  
1. Status post laminectomy and posterior fusion of L3 through L5 
without 
definite evidence of hardware related complications. Note is 
made of the left L5 pedicle screw which appears to extrude 
beyond the vertebral body by 11mm. 
2. Severe degenerative disc disease at L1/L2 causing severe 
spinal canal 
stenosis. 
3. Bilateral punctate renal stones with mild fullness of the 
right renal 
collecting system. 

L-SPINE FLEX AND EXT (2 VIEWS) Study Date of ___ 10:33 AM 

IMPRESSION:    
There has been posterior fusion extending from L3 to L5. No 
definite hardware complications are seen on these radiographs; 
however, the recent CT scan demonstrated extrusion of the left 
L5 pedicle screw beyond the anterior margin of the vertebral 
body.  There are degenerative changes with loss of 
intervertebral disc height at multiple levels.  There is 
retrolisthesis of L1 over L2 which measures 5 mm on flexion and 
10 mm on extension.  This constitutes abnormal motion.  No 
definite compression deformities are seen.
  
CXR ___  
No previous images.  Cardiac silhouette is within normal limits 
and there is no vascular congestion, pleural effusion, or acute 
focal pneumonia. 
Of incidental note is evidence of a is lumbar fusion device. 
 

 
Brief Hospital Course:
On ___ the patient presented to an OSH for back pain and fecal 
incontinence and was transferred to ___ for further evaluation 
after an MRI was obtained and was consistent with lumbar 
stenosis with complete effacement of CSF at L1-2, and 
retrolisthesis of L1 on L2. The patient was admitted to the 
Neurosurgery service and was admitted to the floor for further 
care and evaluation. 

On ___ the patient had flexion and extension films done which 
demonstrated that the patient has extrusion of the left L5 
pedicle screw beyond the anterior margin 
of the vertebral body.  There are degenerative changes with loss 
of intervertebral disc height at multiple levels.  There is 
retrolisthesis of L1 over L2 which measures 5 mm on flexion and 
10 mm on extension. This constitutes abnormal motion. She 
remained neurologically intact with paresthesias to her right 
knee although stated this has been stable since she had a knee 
replacement ___ years ago, and also endorsed paresthesias from the 
lateral aspect of her left knee to left distal great toe. Her 
dexamethasone regimen was discontinued.

On ___ surgery was offered to patient who declined until after 
___. TLSO brace ordered. ___ consult placed. 

On ___ the patient's exam remained neurologically stable. Her 
pain was well controlled. Surgery was again offered but was 
declined by the patient as she requested to wait until after the 
holiday. She was seen by ___ while wearing the TLSO brace and was 
recommended for home ___. She was discharged in stable condition. 

 
Medications on Admission:
Metoprolol, Nitro SL prn, Aspirin, Plavix, Alprazolam, Lipitor, 
Metformin Flexeril, Colace, Prozac Imdur, Tramadol, and 
Protonix. 
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q8H:PRN fever/pain  
2. ALPRAZolam 0.5 mg PO TID:PRN anxiety 
3. Atorvastatin 40 mg PO QPM 
4. Bisacodyl 10 mg PO/PR DAILY 
5. Cyclobenzaprine 5 mg PO TID 
6. Fluoxetine 20 mg PO DAILY 
7. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
8. MetFORMIN (Glucophage) 500 mg PO BID 
9. Metoprolol Tartrate 25 mg PO DAILY 
10. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain  
11. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q4H:PRN pain 
RX *oxycodone-acetaminophen 5 mg-325 mg ___ tablet(s) by mouth 
Q4 hours Disp #*30 Tablet Refills:*0
12. Pantoprazole 40 mg PO Q12H 
13. TraMADOL (Ultram) 50 mg PO TID 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Severe spinal stenosis L1-L2

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with severe L1-L2 spinal 
stenosis. You were offered surgery but declined and requested to 
wait until after the holiday. 

Activity
•You must wear your brace at all times when out of bed. You may 
apply your brace sitting at the edge of the bed. You do not need 
to sleep with it on. 
•You must wear your brace while showering. 
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
•No driving while taking any narcotic or sedating medication. 
•No contact sports until cleared by your neurosurgeon. 
•Do NOT smoke. Smoking can affect your healing and fusion.

Medications
•***Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
•Do not take any anti-inflammatory medications such as Motrin, 
Advil, Aspirin, and Ibuprofen etc… until cleared by your 
neurosurgeon.
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
•It is important to increase fluid intake while taking pain 
medications. We also recommend a stool softener like Colace. 
Pain medications can cause constipation. 

When to Call Your Doctor at ___ for:
•Fever greater than 101.5 degrees Fahrenheit
•New weakness or changes in sensation in your arms or legs.

 
Followup Instructions:
___